US05455258
t-Butyl 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-methylpentanoate (5.38 g, 12.02 mmol) is dissolved in methylene chloride (100.0 mL). Hydrochloric acid gas (from a lecture bottle) is bubbled through the solution for 20 minutes. The reaction is sealed and stirred overnight at room temperature. The solvent is then evaporated to give 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-methylpentanoic acid.

reactant | t-Butyl 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-methylpentanoate | 12.02 mmol, 5.38 g | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OC(C)(C)C)CC(C)C)CC1=CC=CC=C1 | C24H33NO5S
solvent | methylene chloride | 100.0 mL | C(Cl)Cl | CH2Cl2
product | 2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-4-methylpentanoic acid | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)CC(C)C)CC1=CC=CC=C1 | C20H25NO5S
